US04532367
2-chloro-6-methyl-4-(4'-isopropylbenzyl)-phenol
85.8 g (0.6 mol) 2-chloro-6-methylphenol and 33.8 g (0.2 mol) 4-isopropylbenzyl chloride, dissolved in 160 ml chloroform, are reacted with 18 g water-free zinc chloride. At a bath temperature of 60° C. the reaction mixture is stirred 5-6 h, and then washed three times each with 150 ml water for the purpose of removing excess zinc chloride, dried across sodium sulfate and subjected to a driving-off of the solvent chloroform in a vacuum.

reactant | 2-chloro-6-methylphenol | 0.6 mol, 85.8 g | ClC1=C(C(=CC=C1)C)O | C7H7ClO
reactant | 4-isopropylbenzyl chloride | 0.2 mol, 33.8 g | C(C)(C)C1=CC=C(CCl)C=C1 | C10H13Cl
reactant | water | 18 g | O | H2O
solvent | chloroform | 160 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-chloro-6-methyl-4-(4'-isopropylbenzyl)-phenol | ClC1=C(C(=CC(=C1)CC1=CC=C(C=C1)C(C)C)C)O | C17H19ClO
